US05770584
Detritylation of 3-dodecyloxy-2-decyloxy-1 -triphenylmethoxypropane was accomplished using p-toluenesulfonic acid (0.9 g) in CHCl3 :MeOH (72 mL:36 mL) (stirred at room temperature for 48 h, added 10% sodium bicarbonate, extracted with CHCl3, dried over magnesium sulfate, and concentrated). The residue was purified by column chromatography using a gradient of hexanes:ethyl acetate (20:1 to 5:1) to give 3.5 g (63%) of pure 3-dodecyloxy-2-decyloxy-1-propanol.

reactant | 3-dodecyloxy-2-decyloxy-1 -triphenylmethoxypropane | C(CCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCCCC | C44H66O3
reactant | p-toluenesulfonic acid | 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | MeOH | 72 mL | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-dodecyloxy-2-decyloxy-1-propanol | 3.5 g, 63% | C(CCCCCCCCCCC)OCC(CO)OCCCCCCCCCC | C25H52O3
